US04129656
(b) 6-Benzylsulfamoyl-2-bromo-5-chloro-1-indanone
According to Example 1 e), 10.05 g (30 mmoles) of 6-benzylsulfamoyl-5-chloro-1-indanone and 4.8 g (30 mmoles) of bromine in a total of 110 ml of glacial acetic acid yield the substance having a melting point of from 159° to 161° C. which after reprecipitation from a mixture of ethyl acetate and petroleum ether has a melting point in the range of from 176° to 178° C.

reactant | 6-benzylsulfamoyl-5-chloro-1-indanone | 30 mmoles, 10.05 g | C(C1=CC=CC=C1)NS(=O)(=O)C1=C(C=C2CCC(C2=C1)=O)Cl | C16H14ClNO3S
reactant | bromine | 30 mmoles, 4.8 g | BrBr | Br2
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
product | 6-Benzylsulfamoyl-2-bromo-5-chloro-1-indanone | C(C1=CC=CC=C1)NS(=O)(=O)C1=C(C=C2CC(C(C2=C1)=O)Br)Cl | C16H13BrClNO3S
